US07795267B2
Ethyl 1,4-bis(phenylmethyl)-1,4-diazepane-2-carboxylate
1,3-Propanediamine (50 g, 0.67 mol) was dissolved in ethanol (500 mL), with ice cooling, benzaldehyde (140 g, 1.4 mol) was added thereto, and the mixture was stirred at 70° C. for 2 hours. The reaction solution was concentrated under reduced pressure. To the residue were added methanol (1000 mL) and ethanol (500 mL), with ice cooling, sodium borohydride (61 g, 1.6 mol) was added portionwise thereto over 1 hour, and the mixture was stirred at room temperature overnight. Then, the reaction solution was concentrated under reduced pressure, and water was added to the residue. The reaction solution was extracted with ethyl acetate and washed with an aqueous saturated sodium chloride solution. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain an oily matter (180 g). To 81 g of the obtained oily matter were added toluene (1000 mL), triethylamine (76 g, 0.75 mol) and ethyl 2,3-dibromopropionate (43 mL), and the mixture was stirred at 70° C. overnight. The reaction solution was cooled to room temperature and ethyl acetate was added thereto. The resulting mixture was washed with a 0.5 M aqueous sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=20:1 to hexane:ethyl acetate=9:1) to obtain the title compound (52 g, yield 49%).

reactant | 1,3-Propanediamine | 0.67 mol, 50 g | C(CCN)N | C3H10N2
reactant | benzaldehyde | 1.4 mol, 140 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium borohydride | 1.6 mol, 61 g | [BH4-].[Na+]
reactant | triethylamine | 0.75 mol, 76 g | C(C)N(CC)CC | C6H15N
reactant | ethyl 2,3-dibromopropionate | 43 mL | BrC(C(=O)OCC)CBr | C5H8Br2O2
reactant | toluene | 1000 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 500 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 1,4-bis(phenylmethyl)-1,4-diazepane-2-carboxylate | 52 g, yield 49% | C1(=CC=CC=C1)CN1C(CN(CCC1)CC1=CC=CC=C1)C(=O)OCC | C22H28N2O2
